US07888354B2
(1) Preparation of 4-(1H-pyrazol-4-ylcarbonyl)morpholine
A suspension of 1H-pyrazole-4-carboxylic acid (1.05 g), 1-{3-(dimethylamino)propyl}-3-ethylcarbodiimide hydrochloride (2.5 g), 1-hydroxybenzotriazole hydrate (1.6 g) and morpholine (1.2 g) in chloroform (18 mL) was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: chloroform:methanol=100:0 to 95:5) and silica gel column chromatography (eluting solvent: chloroform:methanol=100:0 to 90:10). The resulting colorless solid was washed with ethyl acetate to give the titled compound (1.00 g) as a colorless solid.

reactant | 1H-pyrazole-4-carboxylic acid | 1.05 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | 1-{3-(dimethylamino)propyl}-3-ethylcarbodiimide hydrochloride | 2.5 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.6 g | O.ON1N=NC2=C1C=CC=C2
reactant | morpholine | 1.2 g | N1CCOCC1 | C4H9NO
solvent | chloroform | 18 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(1H-pyrazol-4-ylcarbonyl)morpholine | 1.00 g | N1N=CC(=C1)C(=O)N1CCOCC1 | C8H11N3O2
